US09388199B2
A. Tert-butyl 2-(3-acetyl-1H-indazol-1-yl)acetate
To a solution of 1-(1H-indazol-3-yl)ethanone [4498-72-0](2 g, 12.46 mmol) in CH3CN (50 mL) was added K2CO3 (3.97 g, 28.7 mmol) and tert-butyl 2-bromoacetate (2.58 mL, 17.48 mmol). The reaction mixture was stirred at 90° C. overnight. The reaction mixture was filtered, the residue was washed with CH3CN and the filtrate was concentrated under vacuum. The material thus obtained was used directly in the next step without further purification. MS: 275 [M+H]+; tR (HPLC conditions d): 3.78 min.

reactant | 1-(1H-indazol-3-yl)ethanone | 12.46 mmol, 2 g | N1N=C(C2=CC=CC=C12)C(C)=O | C9H8N2O
reactant | K2CO3 | 28.7 mmol, 3.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoacetate | 17.48 mmol, 2.58 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | Tert-butyl 2-(3-acetyl-1H-indazol-1-yl)acetate | C(C)(=O)C1=NN(C2=CC=CC=C12)CC(=O)OC(C)(C)C | C15H18N2O3
